US08404722B2
Preparation of 4-(4-(pyridin-4-yl)-5-(trifluoromethyl)oxazol-2-yl)benzenamine (34c):
to a nitrogen purged flask charged with palladium on carbon (0.032 g, 0.30 mmol) and 4-(2-(4-nitrophenyl)-5-(trifluoromethyl)oxazol-4-yl)pyridine (1.015 g, 3.0 mmol) in 40 mL ethyl acetate was introduced hydrogen (0.0061 g, 3.0 mmol) by balloon. The reaction mixture was stirred at room temperature under an atmosphere of hydrogen for 18 h then purged with nitrogen and filtered through a pad of Celite. The filtrate was concentrated under reduced pressure to afford a yellow solid. The desired product was isolated by chromatography on silica, eluting with 100% ethyl acetate, affording product as a colorless solid (0.52 g, 56%). ESI+ m/z=306.1 [MH]+.

reactant | 4-(2-(4-nitrophenyl)-5-(trifluoromethyl)oxazol-4-yl)pyridine | 3.0 mmol, 1.015 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC(=C(N1)C1=CC=NC=C1)C(F)(F)F | C15H8F3N3O3
reactant | hydrogen | 3.0 mmol, 0.0061 g | [H][H] | H2
catalyst | palladium on carbon | 0.30 mmol, 0.032 g | [Pd] | Pd
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-(pyridin-4-yl)-5-(trifluoromethyl)oxazol-2-yl)benzenamine | N1=CC=C(C=C1)C=1N=C(OC1C(F)(F)F)C1=CC=C(C=C1)N | C15H10F3N3O
